US06683184B2
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminothiocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)thiocarbamate (200 mg, 0.69 mmol) and 1-(3,5-dimethoxyphenyl)piperazine (154 mg, 0.69 mmol) were dissolved in anhydrous tetrahydrofuran (25 ml) and thereto DBU (105 mg, 0.69 mmol) was added. The mixture was stirred at room temperature for 2 hours, concentrated under the reduced pressure to remove the solvent and purified by column chromatography to obtain the titled compound.

reactant | Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)thiocarbamate | 0.69 mmol, 200 mg | CC=1N=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=S | C14H15N3O2S
reactant | 1-(3,5-dimethoxyphenyl)piperazine | 0.69 mmol, 154 mg | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
reactant | DBU | 0.69 mmol, 105 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminothiocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 71.5% | CC=1N=C(C(=NC1C)OC)NC(=S)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C20H27N5O3S
